US05364866
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]phthalimide
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (5 15 gm 23 4 mmol) K2CO3 (4.2 gm, 30.4 mmol) and 2-bromoethyl phthalimide (7.13 gm, 28 mmol) in acetonitrile (250 ml) was heated at reflux for 3.5 hr. The solids and solvent were removed. The residue was purified by flash chromatography (SiO2, 110 m, eluted with 2-4% CH3OH:DCM). The product thus obtained weighed 7.8 gm (84%). Part of the material was recrystallized to give 2.35 gm of off white crystals, m.p.=148°-149° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 4 mmol, 15 gm | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 30.4 mmol, 4.2 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl phthalimide | 28 mmol, 7.13 gm | BrCCC1=C2C(C(=O)NC2=O)=CC=C1 | C10H8BrNO2
reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]phthalimide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C22H20FN3O3
